US04958028
Potassium tert-butoxide (1.12 g, 10.0 mmol) was added in one portion to a solution of N-acetyl-3-(2-fluorophenyl)imidazolidine-2,4-dione (2.36 g, 10.0 mmol) and cyclohexanecarboxaldehyde (1.23 g, 11.0 mmol) in DMF (10 mL) at 0° C. The solution was allowed to warm to RT overnight with stirring, then diluted with water and extracted with ethyl acetate. The combined extracts were washed with brine (saturated) dried (over MgSO4), filtered and concentrated. The crude product was recrystallized from hexane/ethyl acetate to give 5-cyclohexylmethylene-3-(2-fluorophenyl)-imidazolidine-2,4-dione, as a white solid.

reactant | Potassium tert-butoxide | 10.0 mmol, 1.12 g | CC(C)([O-])C.[K+]
reactant | N-acetyl-3-(2-fluorophenyl)imidazolidine-2,4-dione | 10.0 mmol, 2.36 g | C(C)(=O)N1C(N(C(C1)=O)C1=C(C=CC=C1)F)=O | C11H9FN2O3
reactant | cyclohexanecarboxaldehyde | 11.0 mmol, 1.23 g | C1(CCCCC1)C=O | C7H12O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-cyclohexylmethylene-3-(2-fluorophenyl)-imidazolidine-2,4-dione | C1(CCCCC1)C=C1C(N(C(N1)=O)C1=C(C=CC=C1)F)=O | C16H17FN2O2
